US07435823B2
Step (c) Preparation of 6-((2-(methylamino)-4-pyridinyl)oxy)-N-(4-(methoxy)phenyl)-1-naphthalenecarboxamide
6-(2-Methylaminopyridin-4-yloxy)-1-naphthoic acid (170 mg, 0.58 mmol), p-anisidine (107 mg, 0.87 mmol), DIPEA (149 mg, 1.16 mmol) and TBTU (223 mg, 0.69 mmol) were combined in DMF (3.0 mL) and the reaction mixture was stirred at RT for 16 h, quenched by addition of a 6M aqueous NaOH solution. The precipitate was filtered off, treated with DCM, sonicated. The title compound was isolated by filtration. MS (ESI, pos. ion) m/z: 400.1 (M+1). Mass Calc'd for C24H21N3O3: 399.45.

reactant | 6-(2-Methylaminopyridin-4-yloxy)-1-naphthoic acid | 0.58 mmol, 170 mg | CNC1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C17H14N2O3
reactant | p-anisidine | 0.87 mmol, 107 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | DIPEA | 1.16 mmol, 149 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.69 mmol, 223 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 6-((2-(methylamino)-4-pyridinyl)oxy)-N-(4-(methoxy)phenyl)-1-naphthalenecarboxamide | CNC1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)NC1=CC=C(C=C1)OC | C24H21N3O3
